US07459472B2
3′-Chloro-4′-fluoro-4-hydroxy-biphenyl-3-carboxylic acid (2-biphenyl-4-yl-1(S)-methylcarbamoyl-ethyl)-amide
Resin bound 3-(Biphenyl-4-yl)-(2S)-[(3′-chloro-4′-fluoro-4-hydroxy-biphenyl-3-carbonyl)-amino]-propionic acid (30 mg, 0.09 mmol) prepared from resin bound 3-(Biphenyl-4-yl)-(2S)-[(3′-chloro-4′-fluoro-4-hydroxy-biphenyl3-carbonyl)-amino]-propionic acid methyl ester following general procedure C, was reacted with methyl amine in THF(0.45 mmol) as described in general procedure A, then cleaved with TMSBr/TFA/DCM (1:1:5) at rt for 4 h. The residue obtained after removing the solvent was purified by chromatography to give the title compound. (36 mg). LC/MS (m/z): 503 (M+1)+.

reactant | 3-(Biphenyl-4-yl)-(2S)-[(3′-chloro-4′-fluoro-4-hydroxy-biphenyl-3-carbonyl)-amino]-propionic acid | 0.09 mmol, 30 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)C=1C=C(C=CC1O)C1=CC(=C(C=C1)F)Cl)C1=CC=CC=C1 | C28H21ClFNO4
reactant | 3-(Biphenyl-4-yl)-(2S)-[(3′-chloro-4′-fluoro-4-hydroxy-biphenyl3-carbonyl)-amino]-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1C=C(C=CC1O)C1=CC(=C(C=C1)F)Cl)=O | C29H23ClFNO4
reactant | methyl amine | CN | CH5N
reactant | THF | 0.45 mmol | C1CCOC1 | C4H8O
reactant | TMSBr TFA DCM | C[Si](C)(C)Br.C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3′-Chloro-4′-fluoro-4-hydroxy-biphenyl-3-carboxylic acid (2-biphenyl-4-yl-1(S)-methylcarbamoyl-ethyl)-amide | C1(=CC=C(C=C1)C[C@@H](C(NC)=O)NC(=O)C=1C=C(C=CC1O)C1=CC(=C(C=C1)F)Cl)C1=CC=CC=C1 | C29H24ClFN2O3
